Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, hypothermia
 
Major Surgical or Invasive Procedure:
1) Arterial line
2) Central venous line /femoral line
3) Patient continued his usual peritoneal dialysis sessions

 
History of Present Illness:
Mr. ___ is a ___ year-old male with HIV, Hepatitis B/C, ESRD 
on peritoneal dialysis who presented to the ED with abdominal 
pain, constipation and also feeling dizzy with lightheadedness.  
Called the ambulance for these symptoms.  Initial VS 91.1F 
orally, HR 72, BP initially unmeasurable, RR 20 and 100% oxygen 
saturation on room air.  Exam with clear lungs, RRR, distended 
abdomen which was soft and full.  He refused a rectal exam.  CT 
was obtained given abdominal pain and preliminary read was 
negative for any acute intrabdominal processes.  Right femoral 
line was placed with some difficulty due to scar tissue.  BP 
remained difficult to assess given severe vascular disease.  
Repeat VS soon after presentation revealed temperature 96.1F, 
75HR, BPs of 59/25-105/47, RR 12, and oxygen saturation was 100% 
room air.  Fingerstick glucose was 123.  Patient had potassium 
repleted with 40 mEq K in 1L NS, with 3 additional L NS.  His 
peritoneal dialysate was sampled and did not reveal evidence of 
infection.  Denies ever having abdominal pain, but more a sense 
of constipation and "fullness".  Systolic blood pressures in ED 
ranged 74--> 68 --> 90 --> 105.  By time of transfer from ED to 
inpatient setting he was saturating well on RA, eating and 
requesting more food. Given patient's initial presentation of 
appearing very unwell, was sent to the ICU for closer 
monitoring.

Upon arrival in the ICU, denied any complaints except a sense of 
constipation in his abdomen. Upon ROS, patient denied associated 
nausea, vomiting, fevers, chills, dizziness,dysuria, rash, 
dyspnea. Confirms he had decreased oral intake for 4 days in the 
setting of his constipation and has taken an unknown medication 
for his constipation in the past.  Also with partial blindness 
which is his baseline.  States he had one episode of chest pain 
on day before admission but this improved with sugar as provided 
in the ED.  Denies any exertional component or pain radiation.

 
Past Medical History:
HIV
Hepatitis B
Venous capillary sepsis
Venous thromboembolism
Depressive disorder & nervousness
CMV infection
History of tuberculosis
ESRD ___ HIV - on peritoneal dialysis, followed at ___ in 
___ on ___.
Chronic constipation - on senna PRN
h/o XRT at ___ for ___ in his left ear 
Hypertension
Syphilis in ___ l___.  CSF showed lymphocytosis.  The 
patient was treated with intravenous penicillin for ten days.  
Hepatitis C antibody positive 

SURGICAL HISTORY: 
PD catheter placement ___, numerous HD catheters and AV 
fistulas; all failed
 
Social History:
___
Family History:
Noncontributory

 
Physical Exam:
T: unable to obtain initially, BP: 89/64, PR: 67, RR: 13,  O2: 
100/RA  
General: Alert, oriented, no acute distress; able to relay 
history in a coherent fashion
HEENT: Sclera anicteric, MM mildly dry, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, distant heart sounds but no 
appreciable murmurs, rubs, gallops
Abdomen:  soft, non-tender,  mildly distended, bowel sounds 
present, no rebound tenderness or guarding; bandaged PD wound in 
LLQ
Ext: Warm, nonpalpable distal pulses, no edema; R femoral groin 
wound noted
Neuro: CN II-XII grossly intact; A&O x 3
Skin: Multiple excoriated lesions over entire body, slight 
crusting; including arms, back

 
Pertinent Results:
ADMISSION LABS
___ 07:15PM   LACTATE-0.9 K+-3.0*
___ 03:45PM ASCITES  WBC-2* RBC-0 POLYS-8* LYMPHS-17* 
MONOS-72* MESOTHELI-4*
___ 01:42PM   LACTATE-3.0* K+-2.4*
___ 01:30PM   GLUCOSE-93 UREA N-28* CREAT-10.0* SODIUM-137 
POTASSIUM-2.3* CHLORIDE-94* TOTAL CO2-27 ANION GAP-18
___ 01:30PM   estGFR-Using this
___ 01:30PM   CALCIUM-9.2 PHOSPHATE-2.9 MAGNESIUM-1.9
___ 01:30PM   WBC-2.3* RBC-4.44* HGB-13.3* HCT-40.0 MCV-90 
MCH-30.1 MCHC-33.3 RDW-17.8*
___ 01:30PM   NEUTS-65 BANDS-0 ___ MONOS-3 EOS-2 
BASOS-1 ___ MYELOS-0
___ 01:30PM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 01:30PM   PLT SMR-LOW PLT COUNT-92*
___ 01:30PM   ___ PTT-31.1 ___

___ BLOOD LABS /HIV CD COUNTS:
-WBC: 3.0 
Lymph: 26 
___: 780 
CD3%: 78 
Abs-CD3: 612 
CD4%: 35 
Abs-CD4: 273 
CD8%: 42 
Abs-CD8: 328 
CD4/CD8: 0.8 

ENDOCRINE STUDIES:
___ 06:04PM BLOOD Free T4-1.3
___ 04:32AM BLOOD TSH-3.6 
___ 06:04PM BLOOD Cortsol-19.2
___ 05:29AM BLOOD Cortsol-17.5
.
IMAGING:

___ CXR: IMPRESSION: AP chest reviewed in the absence of prior 
chest radiographs: The patient has had resection of the medial 
left clavicle, and a vascular graft follows the course of the 
left subclavian and brachiocephalic veins to the SVC. 
Mediastinal widening extends to the apices of the chest with 
thickening of the pleura and may represent treated adenopathy. 
Heart is mildly enlarged. Lower lungs clear. No pleural 
effusion. 
.
CT ABDOMEN /PELVIS:
IMPRESSION: 
1. Cirrhosis with ascites.  
2. Atrophic native kidneys ___ hyperdense cystic lesions in the 
left kidney which do not qualify as simple cysts. These lesions 
should be watched closly on follow-up exams. 
3. PD catheter in place. 
4. Probable emphysema at the lung bases. 

___ -CT HEAD WITHOUT CONTRAST:
1. No definite acute intracranial process. 
2. Relatively symmetric, confluent low-attenuation in 
bihemispheric 
periventricular white matter, most likely representing chronic 
microvascular 
infarction, in a patient with these predisposing conditions; 
there is no 
evidence of acute vascular territorial infarction. 
3. Extensive fluid-opacification involving the left mastoid air 
cells, of 
uncertain duration and clinical significance; this should be 
closely 
correlated clinically. 
4. Prosthetic right globe with abnormal appearance to the left 
globe, as 
detailed above. 
  
EKG: Sinus rhythm. P-R interval prolongation. Lateral ST-T wave 
changes.  Modest QTc interval prolongation. 

MICROBIOLOGY:
Blood Cultures ___ and ___ all negative to date at 
time of discharge  

Peritoneal Fluid:
___ 3:45 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

.
DISCHARGE LABS:

___ 05:29AM BLOOD WBC-3.5* RBC-3.17* Hgb-9.7* Hct-28.9* 
MCV-91 MCH-30.6 MCHC-33.6 RDW-18.8* Plt Ct-85*
___ 05:29AM BLOOD Neuts-68.3 Bands-0 ___ Monos-3.6 
Eos-2.2 Baso-0.4
___ 05:29AM BLOOD Plt Ct-85*
___ 05:29AM BLOOD Glucose-65* UreaN-29* Creat-9.5* Na-142 
K-3.0* Cl-104 HCO3-28 AnGap-13
___ 05:29AM BLOOD Calcium-7.8* Phos-4.0 Mg-1.8

 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with HIV, Hep B/C, ESRD on 
peritoneal dialysis who presented with abdominal pain x 1 day, 
hypothermia, and hypotension which resolved status-post IVFs.  

Brief MICU Course:

The patient was admitted to the MICU for close observation, 
although his symptoms of abdominal pain had resolved. His blood 
pressure did drop to as low as ___ systolic, and he received 2 L 
NS, and was started on Levophed. He was cultured and covered 
empirically with Vanco/Zosyn given the hypotension and this was 
later narrowed to Zosyn alone. He was hypothermic to 92 degrees 
rectally, and a Bair Hugger was applied. Peritoneal Dialysis was 
attempted but terminated early given the hypotension. Blood 
pressure readings were inconsistent so an a-line was placed. 
Over the course of hospital day 1, the patient's hemodynamics 
improved and the Levophed was weaned off. TSH and cortisol 
levels were normal. Throughout this, the patient mentated well 
and was A&Ox3. On Hospital Day 2 he was called out to the 
regular medical floor from the ICU for ongoing monitoring. 
Please see below for problem based summary after transfer to 
general medical wards. 

Continued course after transfer out of ICU to medical floor:

# Abdominal Discomfort: Continued to deny any active abdominal 
pain after hospital day 2. Bloated from constipation on 
admission but he had multiple bowel movements with relief of his 
sense of "fullness" soon after admission. Oral intake improved 
daily. Exam revealed a soft, NT abdomen. No noted organisms in 
peritoneal culture; all cultures NTD thus far, finals pending. 
Initially had elevated lactate, but this resolved. CT abdomen 
essentially clear with exception of cirrhosis and ascites and 
some kidney findings as outlined below. Probably dehydration 
from admitted poor PO intake promoted constipation. He was 
monitored with serial abdominal exams. Aggressive bowel regimen 
with Senna and lactulose given for regularity of bowel 
movements. 
.
# Hypothermia / Hypotension: Low blood pressures have 
stabilized. Still unclear etiology, although likely from his 
poor PO intake and some mild dehydration.  Changes in body 
temperature unlikely endocrinologic in nature as initial 
cortisol and TSH were within normal limits, repeat a.m. cortisol 
added on ___ and was also WNL. Some of his borderline low blood 
pressure shifts may be due to small amount of volume changes 
with dialysis treatments as well (although PD not HD). Initial 
infectious workup labs/studies for concerns over looming 
SIRS/sepsis picture have all been unremarkable to date. History 
of HIV, HepC, HepB. Latest CD-4 count=273. Leukopenias initially 
concerning for an acute infection but as he appeared markedly 
more stable after IVFs and all culture data was unrevealing it 
was felt hat his low blood cell counts were more likely due to 
his HIV. Anuric so no urine studies collected. Trended 
temperatures, improved after he was transferred to the medical 
floor from the ICU. However, he is still having some more 
intermittent low temperatures in the ___ range with oral 
measures. He had a CT head without contrast on the morning of 
___ to rule out of any hypothamalmic masses/CVAs that may have 
impacted his ability to self regulate body temperature. Head CT 
showed no definite acute intracranial process, and relatively 
symmetric, confluent low-attenuation in bihemispheric 
periventricular white matter, most likely representing chronic 
microvascular infarction. Otherwise, it is quite possible that 
his body temperature is having fluctuations in the setting of 
his 2L exchanges during peritoneal dialysis with resultant 
cooling of underlying mesenteric venous bed. Patient's rectal 
temperature taken on ___ but was too low to register on 
rectal thermometer which had a cut-off of ___. Vitals today at 
time of discharge included BPs 98-110/60-80s range, HR 70-100, 
RR 18 and oxygen saturations at 100% room air.  CXR unremarkable 
for any acute new infiltrates or PNAs although some subtle 
perihilar area changes should be followed up on a repeat CT/CXR 
over the next ___ weeks time. At time of discharge several 
cultures were also pending, will plan to follow-up final reports 
and notify ___ staff of any organisms/infections 
identified. 
.  
# Leukopenia: Likely from his HIV history, appears to be a 
chronic issue. Initial WBC with slight drop from baseline 
however to 2.3; PMN 65%, now WBCs up to 3 range.  Not 
neutropenic currently. CD4 is 273.  Trended daily CBC with 
differential/ANC levels, remained stable. Continue Zosyn for 
now; will complete 7 day course on ___. 
  
# ESRD: Continued peritoneal dialysate regimen with daily 
exchanges. Euvolemic on exam now. Renal team followed while 
inpatient. Anuric with his ESRD. Continued on Calcitriol 0.25mcg 
daily, Sensipar 90mg daily, PhosLo TID, and Epogen. He will 
resume his ongoing PD sessions on transfer. Last BUN/Cr was 
___ respectively at time of discharge. 
.
#Labile affect: Please note that Mr. ___ was refusing 
multiple medications during his stay and missed a few doses of 
his antibiotics and a few of his usual daily medications on 
___. Also refused a P.M. peritoneal dialysis session on night 
of ___ as well. Patient is alert and oriented x3 and seems to 
have capacity so team felt he had right to refuse treatment but 
made repeated efforts to discourage this behavior by reviewing 
risks/benefits. Team was considering a psychiatry consult near 
time of discharge as patient's refusal to collect vitals and 
accept medications was counter to his effective management. He 
has a noted PMH of depression and anxiety per records. He seemed 
to perseverate on going back to ___ and expressed that he 
feels less anxious at ___ as he has been cared for there in 
past. He may benefit from formal psychiatric evaluation upon 
return to ___ if this behavior continues.     
.
# Kidney cysts/masses: Please note that routine CT abdomen for 
workup of abdominal pain showed atrophic native kidneys ___ 
hyperdense cystic lesions in the left kidney which do not 
qualify as simple cysts. These lesions should be watched closly 
on follow-up exams and repeat CT recommended in 2 months.  
.  
# HIV: CD4 in ___ was 27, now current CD4 count is up to 
273. He was continued on outpatient Tenofovir 300mg once weekly. 
Bactrim DS 1 tab MWF continued. As above, no new acute 
infections identified. Will plan to follow-up on outstanding 
final blood culture reports.   
.  
# Fluids, Electrolytes & Nutrition: Continued on his peritoneal 
dialysis; hypokalemia trend noted so he was repleted as needed. 
Given some magnesium repletion as well prior to discharge. Renal 
diet provided, good appetite. 
  
#Access: Femoral line was placed. Patient with very difficult 
upper extremity access so team left access with femoral line in 
place so that he could complete the additional 3 days of his 
antibiotics. Line appears clean /dry/ intact. Also has left 
abdominal catheter/peritoneal port for his ongoing peritoneal 
dialysis sessions.    
 
#Prophylaxis: He was continued on a PPI / Pneumoboots / bowel 
regimen PRN  
.  
#Code Status: DNR/DNI confirmed on admission with patient.
.  

.  

 
Medications on Admission:
(per CMA service ___  
Bactrim DS 1 tab MWF  
Epivir 25mg daily  
Phoslo 667mg 3 tabs TID with meals  
Tenofovir 300mg (qWeek per CMA service)  
Zerit 15mg daily  
Zyprexa 5mg QHS  
___ 10000u SC Qweek  
Omeprazole 20mg Qday  
Calcitriol 0.25mcg daily  
Sensipar 90mg daily  
Senna 2 tabs QHS  

 
Discharge Medications:
1. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO MWF (___).  
2. Lamivudine 100 mg Tablet Sig: 0.25 Tablet PO DAILY (Daily).  
3. Calcium Acetate 667 mg Capsule Sig: Three (3) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
4. Piperacillin-Tazobactam 2.25 gram Recon Soln Sig: One (1) 
Recon Soln Intravenous Q8H (every 8 hours) for 3 days: please 
complete on ___ .  
5. Tenofovir Disoproxil Fumarate 300 mg Tablet Sig: One (1) 
Tablet PO 1X/WEEK (___).  
6. Olanzapine 5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
7. Omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
8. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
9. Cinacalcet 30 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
10. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

11. Epogen 10,000 unit/mL Solution Sig: One (1)  Injection once 
a week.  
12. Stavudine 15 mg Capsule Sig: One (1) Capsule PO Q24H (every 
24 hours).  
13. PhosLo 667 mg Capsule Sig: One (1) Capsule PO three times a 
day: with meals.  
14. peritoneal dialysis instructions
Peritoneal Dialysis Orders:

4 exchanges/24hrs; 2.5% solution; 2L volume; 4 hr dwell time. 
Please record daily weights, I/Os, effluent appearance daily.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Hypotension
Hypothermia
Constipation
.
Secondary:
HIV
Hepatitis B/C
End Stage Renal Disease

 
Discharge Condition:
Good. At time of discharge the patient had stable blood 
pressures, and he had no residual complaints of abdominal pain. 
Constipation had resolved and he was having regular bowel 
movements. 

 
Discharge Instructions:
It was a pleasure taking care of you here at ___ 
___. You were admitted with complaints of 
lightheadedness, low blood pressures, low body temperatures 
(hypothermia)and abdominal pains. A CT scan imaging study of 
your abdomen showed no acute new abdominal issues to explain 
this abdominal pain and your symptoms were likely due to your 
constipation as you had not had a bowel movement in several 
days. Once you had medication to help you have a bowel movement 
you felt better. Multiple lab studies were done and there were 
no infections found to explain your symptoms. The renal team was 
called and helped to continue your usual peritoneal dialysis 
sessions while you were here in the hospital. 
.
Please follow-up with your primary doctor as outlined below. 
If you have any additional abdominal pains, fevers, low blood 
pressures, feelings of dizziness, diarrhea, more constipation, 
or any additional health concerns please call your primary 
doctor or notify your covering medical staff at the ___ 
___. 
.
Medication Instructions:
Antibiotics for broad coverage were added to your daily regimen 
for a planned 7 days of therapy. Please continue daily Zosyn as 
prescribed up until ___. 
-Otherwise you can continue taking all of your usual medications 
as previously prescribed. 
-
Additional Notes/Instructions:
Please follow-up with your doctor for ___ repeat CT abdomen in 2 
months to assess a left sided kidney cystic region that was 
found on CT. This should be evaluated for any increase in size 
or signs or concerning features with repeat imaging. 

 
Followup Instructions:
___